2164-03-14 06:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 IABP LINE - START [**2164-3-13**] 05:00 PM
 EKG - At [**2164-3-13**] 09:00 PM
   pt c/o upper chest/throat pain after eating- feeling better after
   amphogel and sitting in reverse T [**Doctor Last Name **]. EKG unchanged from earlier.
   starting lopressor. remains on ASA/Heparin gtt
   [**2164-3-13**]:
   - Pt had chest pain at 2100, [**2-14**], burning, upper substernal, radiates
   to back, no associated SOB or nausea.  ECG showed no change from
   prior.  Gave mylanta for suspected GI source of chest pain.
   - CE's:  Trop 0.09, CK 72 on admission, elevated to CK of 324, MBI 13
   Trop
   - CXR in AM
   - Changed metoprolol to PO
   - Repleted K and Mag
   - Gave percocet for lower back pain
   - Pt reported feeling transiently lightheaded this AM, VSS
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Nausea/Vomiting
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-3-14**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 68 (64 - 76) bpm
   BP: 93/50(73) {93/41(70) - 140/90(116)} mmHg
   RR: 16 (13 - 22) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                    990 mL
                                                                    551 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                    570 mL
                                                                    551 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    585 mL
   Urine:
                                                                  1,870 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -880 mL
                                                                    -34 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   GENERAL: NAD, lying in bed comfortably, talking pleasantly
   HEENT: NCAT, EOMI, PERRLA, MMM, OP clear
   NECK: Supple, No JVD, no carotid bruits
   CARDIAC: normal S1/S2, +II/VII SEM RUSB, no rubs or gallops
   LUNGS: CTAB in anterior lung fields
   ABDOMEN: Soft, NTND, normal bowel sounds
   EXTREMITIES: No c/c/e, dopplerable pedal pulses, right groin with IABP
   catheter in place, no hematoma
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.   .
   Labs / Radiology
   261 K/uL
   11.6 g/dL
   121 mg/dL
   0.7 mg/dL
   27 mEq/L
    3.7 mEq/L- 40 KCL po
   14 mg/dL
   103 mEq/L
   139 mEq/L
   34.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2164-3-13**]  09:19 PM
   WBC
   9.5
   Hct
   34.0
   Plt
   261
   Cr
   0.7
   TropT
   0.82
   Glucose
   121
   Other labs: PT / PTT / INR:16.7/82.5/1.5, CK / CKMB /
   Troponin-T:324/42/0.82, Ca++:8.9 mg/dL, Mg++:1.7, PO4:3.9 mg/dL
   Assessment and Plan
   83 yof with hx of DM II, HTN, Hyperlipidemia who presents to the [**Hospital1 5**]
   ED with chest pain found to have acute MI.
   .
   # STEMI:  Ms. [**Known lastname **] presented with acute STEMI with STE in V2 along
   with Qwave in V1-2 which suggested acute MI > 8 hours old. aVL/V1
   changes suggestive of LMCA involvement. On cath LMCA 50%, RCA 90%, LAD
   80%. In the setting of DM II, recommendation for CABG.  IABP was placed
   to assist with coronary perfusion.  Patient remains hemodynamically
   stable in the  CCU.
   -- hold Plavix for surgery
   -- f/u CT [**Doctor First Name 91**] recs, likely to OR on Fri
   -- cont heparin gtt
   -- changed IV metoprolol to PO, continue
   -- continue high dose statin and ASA 325mg daily
   -- start ACE if BP tolerates after BB
   -- CXR in AM - pending
   -- monitor peripheral pulses with IABP
   -- platelets stable
   -- ECHO
   .
   # HTN:  normotensive. continue BB as above.  obtain home meds, hold
   aldactone
   - Consider ACEI as next [**Doctor Last Name **] as needed
   .
   # DM II: HISS while in house. hold home glucophage
   .
   # Hyperlipidemia: high dose statin
   .
   ICU Care
   Nutrition: Cardiac diabetic diet, NPO after midnight
   Glycemic Control:
   Lines:
   IABP line - [**2164-3-13**] 05:00 PM
   18 Gauge - [**2164-3-13**] 05:12 PM
   Prophylaxis:
   DVT:  Heparin drip
   Stress ulcer:  Bowel regimen senna, colace
   VAP:
   Comments:
   Communication:  Comments:   Comm: with patient.  Daughter: c
   [**Telephone/Fax (3) 5615**]. h [**Telephone/Fax (1) 5616**]
   Code status: Full code
   Disposition:  Will remain in the CCU until surgery
   ------ Protected Section ------
   I reviewed the overnight course and examined Pt.
   Pt stable painfree on IABP.
   No new issues.
   I spent 35 mins over case
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2164-3-14**] 12:46 ------

2164-03-15 05:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Had nausea in am. Got EKG. No changes.
   - TTE done-> LAE, mild LVH, no AS, basal to mid/anterior septal HK
   - CT sgy was emailed and called. Didn't know about patient. Requested
   carotids, UA, HGBA1C, LFTs prior to CABG. Saw patient at 7pm. Getting
   carotids at 7am and then to CT surgery ->case at 10am. consented by
   anesthesia already.
   Allergies:
   Penicillins
   Unknown;
   Codeine
   Nausea/Vomiting
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-3-15**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 73 (65 - 76) bpm
   BP: 137/47(92) {99/34(68) - 137/58(92)} mmHg
   RR: 16 (10 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  3,039 mL
                                                                     95 mL
   PO:
                                                                    840 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,199 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    350 mL
   Urine:
                                                                  1,890 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,149 mL
                                                                   -255 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   GENERAL: NAD, lying in bed comfortably, talking pleasantly
   HEENT: NCAT, EOMI, PERRLA, MMM, OP clear
   NECK: Supple, No JVD, no carotid bruits
   CARDIAC: normal S1/S2, +II/VII SEM RUSB, no rubs or gallops
   LUNGS: CTAB in anterior lung fields
   ABDOMEN: Soft, NTND, normal bowel sounds
   EXTREMITIES: No c/c/e, dopplerable pedal pulses, right groin with IABP
   catheter in place, no hematoma
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.   .
   Labs / Radiology
   241 K/uL
   11.5 g/dL
   173 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   13 mg/dL
   102 mEq/L
   137 mEq/L
   33.7 %
   9.7 K/uL
        [image002.jpg]
                             [**2164-3-13**]  09:19 PM
                             [**2164-3-14**]  06:00 AM
                             [**2164-3-15**]  04:21 AM
   WBC
   9.5
   8.3
   9.7
   Hct
   34.0
   34.9
   33.7
   Plt
   261
   250
   241
   Cr
   0.7
   0.7
   0.7
   TropT
   0.82
   0.78
   Glucose
   121
   131
   173
   Other labs: PT / PTT / INR:14.0/39.4/1.2, CK / CKMB /
   Troponin-T:244/25/0.78, ALT / AST:57/121, Alk Phos / T Bili:76/2.2,
   Albumin:3.8 g/dL, LDH:412 IU/L, Ca++:9.1 mg/dL, Mg++:1.6 mg/dL, PO4:4.2
   mg/dL
   TTE:
   The left atrium is dilated. There is mild symmetric left ventricular
   hypertrophy with normal cavity size. There is mild regional left
   ventricular systolic dysfunction with hypokinesis of the basal to mid
   anterior septum. Right ventricular chamber size and free wall motion
   are normal. The aortic valve leaflets (3) are mildly thickened but
   aortic stenosis is not present. The mitral valve leaflets are mildly
   thickened. There is no mitral valve prolapse. Trivial mitral
   regurgitation is seen (may be UNDERestimated due to shadowing). The
   estimated pulmonary artery systolic pressure is normal. There is a
   trivial/physiologic pericardial effusion. There is an anterior space
   which most likely represents a fat pad.
   IMPRESSION: Mild symmetric LVH with mild regional LV systolic
   hypokinesis consistent with LAD disease. Moderate calcification of the
   posterior mitral annulus. No significant valvular abnormality seen.
   Assessment and Plan
   Assessment and Plan
   83 yof with hx of DM II, HTN, Hyperlipidemia who presents to the [**Hospital1 5**]
   ED with chest pain found to have acute MI.
   .
   # STEMI:  Ms. [**Known lastname **] presented with acute STEMI with STE in V2 along
   with Qwave in V1-2 which suggested acute MI > 8 hours old. aVL/V1
   changes suggestive of LMCA involvement. On cath LMCA 50%, RCA 90%, LAD
   80%. In the setting of DM II, recommendation for CABG.  IABP was placed
   to assist with coronary perfusion.  Patient remains hemodynamically
   stable in the  CCU.
   -- hold Plavix for surgery
   -- f/u CT [**Doctor First Name 91**] recs, likely to OR on Fri
   -- cont heparin gtt
   -- changed IV metoprolol to PO, continue
   -- continue high dose statin and ASA 325mg daily
   -- start ACE if BP tolerates after BB
   -- CXR in AM - pending
   -- monitor peripheral pulses with IABP
   -- platelets stable
   -- ECHO
   .
   # HTN:  normotensive. continue BB as above.  obtain home meds, hold
   aldactone
   - Consider ACEI as next [**Doctor Last Name **] as needed
   # DM II: HISS while in house. hold home glucophage
   # Hyperlipidemia: high dose statin
   ICU Care
   Nutrition: Cardiac diabetic diet, NPO after midnight
   Glycemic Control:
   Lines:
   IABP line - [**2164-3-13**] 05:00 PM
   18 Gauge - [**2164-3-13**] 05:12 PM
   Prophylaxis:
   DVT:  Heparin drip
   Stress ulcer:  Bowel regimen senna, colace
   VAP:
   Comments:
   Communication:  Comments:   Comm: with patient.  Daughter: c
   [**Telephone/Fax (3) 5615**]. h [**Telephone/Fax (1) 5616**]
   Code status: Full code
   Disposition:  Will remain in the CCU until surgery
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2164-3-13**] 05:00 PM
   18 Gauge - [**2164-3-13**] 05:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: